US08445510B2
2-[(1S)-1-(5-Bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)ethyl]-3-chloro-4-fluorophenol
To a solution of 5-bromo-3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (1.015 g, 2.646 mmol) in CH2Cl2 (25 mL), cooled to −78° C., 1.0 M of boron tribromide in CH2Cl2 (8 mL, 8 mmol) was added in parts, over the course of 10 min. The solution was allowed to warm to ambient temperature for 18 h (acetone/dry ice bath removed at 1.5 h). The reaction mixture was cooled to 0° C., after which methanol was added to quench the reaction. After stirring at rt for 30 min, the reaction solution was concentrated in vacuo. The sample was resuspended in CH2Cl2 and a standard aqueous workup with saturated aqueous NaHCO3 solution was performed. The organic layers were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude was dissolved in minimal CH2Cl2/MeOH, adsorbed onto a pre-packed silica solid load cartridge (RediSepRf 25 g size), and purified by the ISCO/Teledyne purification system [RediSepRf silica column, 12 g size], using a 0-50% EtOAc:CH2Cl2 solvent gradient. Fractions containing product were combined and concentrated in vacuo, giving the title material as a yellow solid. 1H NMR (400 MHz, CDCl3): δ=9.50 (br s, 1H), 8.34 (s, 1H), 7.62 (s, 1H), 7.43 (s, 1H), 6.99 (dd, J=8.6, 8.6 Hz, 1H), 6.62 (dd, J=9.1, 4.5 Hz, 1H), 5.03 (dtd, J=7.3, 7.2, 1.3 Hz, 1H), 1.77 (d, J=7.1 Hz, 3H). MS (ES+): m/z 370.97/372.98 (100/43) [MH+]. HPLC: tR=1.56 min (TOF, polar—3 min).

reactant | 5-bromo-3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 2.646 mmol, 1.015 g | BrC=1C=C2C(=NC1)NC=C2[C@H](C)C2=C(C(=CC=C2OC)F)Cl | C16H13BrClFN2O
reactant | boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 8 mmol, 8 mL | C(Cl)Cl | CH2Cl2
product | 2-[(1S)-1-(5-Bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)ethyl]-3-chloro-4-fluorophenol | BrC=1C=C2C(=NC1)NC=C2[C@H](C)C2=C(C=CC(=C2Cl)F)O | C15H11BrClFN2O
